* source 15N
R_R15         N38148 0  1k TC=0,0 
X_R10         N37228 N37228 N37592 POT PARAMS: SET=0.15 VALUE=500k
Q_Q1         N37336 N37746 N37618 QBC846B 
R_R6         0 N37746  10k TC=0,0 
Q_Q7         VEE N38040 N37228 QBC856B 
V_V1         VCC 0 10
X_U4         N38244 VEE 1N4148 
R_R3         N37330 VCC  680 TC=0,0 
R_R7         VEE N38156  330 TC=0,0 
Q_Q5         VCC N37422 N37228 QBC846B 
R_R16         0 N37592  15k TC=0,0 
Q_Q4         N38040 N37862 N38156 QBC846B 
X_R2         N37214 N37214 N37228 POT PARAMS: SET=0.11 VALUE=10k
R_R4         N37336 VCC  680 TC=0,0 
R_R9         N37862 0  6.8k TC=0,0 
V_V2         0 VEE 10
R_R12         0 N37678  1k TC=0,0 
Q_Q6         N37422 N37336 VCC QBC856B 
R_R13         0 N37678  1k TC=0,0 
C_C1         0 N37200  22n  TC=0,0 
Q_Q3         N37618 N37862 N37886 QBC846B 
R_R8         VEE N37886  330 TC=0,0 
Q_Q2         N37330 N37200 N37618 QBC846B 
R_R14         N38148 0  1k TC=0,0 
R_R1         N37200 N37214  330 TC=0,0 
D_D1         VCC N37678 SMLS14BET 
D_D2         N38148 VEE SMLS14BET 
X_U3         N37862 N38244 1N4148 
R_R5         N37228 N37746  10k TC=0,0 
X_U1         N37422 N514501 1N4148 
X_U2         N514501 N38040 1N4148 
